US05409928
(1) Preparation of 3,5-dimethoxy-4'-(1,3-dioxolan-2-yl)benzhydrol
To a suspension of magnesium (0.9 g, 37 millimol) in tetrahydrofuran (30 ml) was added a small amount of iodine, and thereto was added a solution of p-bromobenzaldehyde ethylene acetal (8.0 g, 33 millimol) in tetrahydrofuran (10 ml) under nitrogen atmosphere. After a while, heat was generated, and magnesium was dissolved. After stirring for 1.5 hours as it was, the mixture was cooled with ice, and thereto was added at a breath 3,5-dimethoxybenzaldehyde (5 g, 30 millimol). After stirring for 2 hours as it was, saturated aqueous ammonium chloride solution was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, and dried over anhydrous sodium sulfate, and the solvent was distilled away under reduced pressure. The residue was separated and purified by using a silica-gel column chromatography (ethyl acetate:n-hexane=1:2) to give the title compound (8.8 g, 27.7 millimol, 92%).

reactant | magnesium | 37 millimol, 0.9 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | p-bromobenzaldehyde ethylene acetal | 33 millimol, 8.0 g | C1COC(C2=CC=C(C=C2)Br)O1 | C9H9BrO2
reactant | 3,5-dimethoxybenzaldehyde | 30 millimol, 5 g | COC=1C=C(C=O)C=C(C1)OC | C9H10O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3,5-dimethoxy-4'-(1,3-dioxolan-2-yl)benzhydrol | 27.7 millimol, 8.8 g, 92% | COC=1C=C(C(C2=CC=C(C=C2)C2OCCO2)O)C=C(C1)OC | C18H20O5
